US07960365B2
(R)-5-Chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethyl}-amide
To a solution of 2,5-dichloropyridine (7.0 g, 0.047 mol) in ethanol (44.5 ml) was slowly added a 25% solution of sodium ethoxide in ethanol (13.6 ml, 50 mmol). The reaction mixture was heated to 150° C. for 10 min in a microwave oven. The solvent was evaporated and the residue partitioned between diethyl ether and water. The organic phase was washed with water, brine and dried over anhydrous potassium carbonate. The solvent was evaporated under reduced pressure to give 5-chloro-2-ethoxy-pyridine (4.13 g, 26.2 mmol, 56%). To a solution of sodium acetate (4.91 g, 60 mmol) in acetic acid (10 ml) at 0-5° C. was added a solution of 5-chloro-2-ethoxy-pyridine (9.40 g, 60 mmol) in acetic acid (10 ml) under nitrogen atmosphere. A solution of bromine (19.2 g, 0.12 mmol) in acetic acid (20 ml) was added dropwise and the mixture heated under reflux for 16 h. The mixture was partitioned between diethyl ether and water. The organic phase was washed with 4M sodium hydroxide (200 ml), then with 5% aqueous sodium thiosulphate and dried over anhydrous potassium carbonate The solvent was evaporated to give 3-bromo-5-chloro-2-ethoxy-pyridine (11.6 g, 49 mmol, 82%). A mixture of 3-bromo-5-chloro-2-ethoxy-pyridine (3.47 g, 15 mmol), 4-acetylphenylboronic acid (7.19 g, 44 mmol), tetrakis(triphenylphosphine)palladium (0) (0.87 g, 0.75 mmol), 2M aqueous sodium carbonate (22 ml) and 1,2-dimethoxyethane (57 ml) was refluxed under nitrogen atmosphere for 64 h. The reaction mixture was concentrated under reduced pressure and partitioned between ethyl acetate and water. The organic phase was washed with water, brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue chromatographed on silica gel. The solvent was evaporated to give 1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethanone (2.68 g, 9.7 mmol, 65%). To a solution of (R)-tert-butane sulfinamide (0.48 g, 4.0 mmol) in tetrahydrofuran (20 ml) under argon atmosphere was added 1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethanone (1.0 g, 3.6 mmol) and titanium tetraethoxide (1.66 g, 7.3 mmol). The mixture was heated under reflux for 48. The reaction mixture was cooled to −50° C. then sodium borohydride (0.55 g, 14.5 mmol) in tetrahydrofuran (10 ml) was added by cannula. Cooling was removed and the reaction mixture warmed to room temperature over 2 h. The reaction was quenched by addition of methanol (5 ml) and the mixture added to brine and filtered through Celite. The mixture was concentrated and partitioned between ethyl acetate and water. The organic phase was washed with water, brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue chromatographed on silica gel. The solvent was evaporated to give (R)-2-methyl-propane-2-sulfinic acid {1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethyl}-amide (0.39 g, 1.0 mmol, 28%). To a solution of (R)-2-methyl-propane-2-sulfinic acid {1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethyl}-amide (1.18 g, 3.1 mmol) in methanol (6.2 ml) was added 1 M Hydrogen chloride in diethyl ether (6.2 ml). The reaction was stirred at room temperature for 1 h and the solvent evaporated. The residue was added to a SCX column (eluted with 2M ammonia in methanol) and further purified by chromatography over silica gel eluting with 3:1 heptane/ethyl acetate). Evaporation of solvent under reduced pressure gave (R)-1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethylamine (385 mg, 1.4 mmol, 45%). To a solution of (R)-1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethylamine (128 mg, 0.46 mmol) in dichloromethane (2 ml) was added triethylamine (140 mg, 1.4 mmol) and 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride (127 mg, 0.55 mmol). The reaction was agitated at room temperature for 16 h and quenched with saturated aqueous sodium bicarbonate solution. The organic phase was dried over anhydrous magnesium sulfate and the solvent evaporated. The residue was chromatographed over silica gel and the solvent evaporated to give the title compound (51 mg, 0.1 mmol, 22%). 1H NMR (400 MHz, DMSO-d6): δ 8.36 (d, 1H), 8.19 (d, 1H), 7.77 (d, 1H), 7.46 (d, 2H), 7.26 (d, 2H), 4.36 (m, 3H), 3.53 (s, 3H), 2.22 (s, 3H), 1.33 (m, 6H) ppm; MS (ESI) m/z: 469.1 [M+H]+.

reactant | (R)-1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethylamine | 0.46 mmol, 128 mg | ClC=1C=C(C(=NC1)OCC)C1=CC=C(C=C1)[C@@H](C)N | C15H17ClN2O
reactant | triethylamine | 1.4 mmol, 140 mg | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride | 0.55 mmol, 127 mg | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (R)-5-Chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {1-[4-(5-chloro-2-ethoxy-pyridin-3-yl)-phenyl]-ethyl}-amide | 0.1 mmol, 51 mg, 22% | ClC=1C=C(C(=NC1)OCC)C1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C=1C(=NN(C1Cl)C)C | C20H22Cl2N4O3S
